US04719222
2-(2,2-Dimethyl-5-oxo-1-imidazolidineacetamido)acetamide
To a solution of glycylglycylglycinamide acetate (800 mg) in methanol (8 ml) and acetone (15 ml), Amberlite IRA-68 resin (2 ml) was added. The suspension was stirred at room temperature for 1 hour, then the resin was filtered off and the solution was evaporated under reduced pressure. The residue was suspended in acetone and stirred at room temperature overnight. The precipitate was collected and crystallized from ethyl acetate, to give the title compound, as a white powder, m.p. 102°-105° C. dec.

reactant | glycylglycylglycinamide acetate | 800 mg | C(C)(=O)O.NCC(=O)NCC(=O)NCC(=O)N
reactant | methanol | 8 ml | CO | CH4O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 2-(2,2-Dimethyl-5-oxo-1-imidazolidineacetamido)acetamide | CC1(N(C(CN1)=O)CC(=O)NCC(=O)N)C | C9H16N4O3
